US04940730
(i) Synthesis of N-erucoyl-proline methyl ester
In methylene chloride (10 ml) was dissolved erucic acid (2 g). To the solution was added dropwise oxalyl chloride (1.1 ml), and the mixture was refluxed for one hour under heating, followed by concentration to give acid chloride. The acid chloride was stirred, together with L-proline methyl ester (980 mg), in THF (15 ml)-water (1 ml) in the presence of NaHCO3 (800 mg) at room temperature for 15 hours. The solvent was concentrated. To the residue was then added water, and the mixture was subjected to extraction with methylene chloride. The extract was dried and concentrated, followed by purification by means of a silica gel column chromatography (hexane:ethyl acetate=3:1) to obtain a colorless oily product [1.09 g (yield 41%)].

reactant | L-proline methyl ester | 980 mg | COC([C@H]1NCCC1)=O | C6H11NO2
reactant | water | 1 ml | O | H2O
reactant | NaHCO3 | 800 mg | C(=O)(O)[O-].[Na+]
reactant | THF | 15 ml | C1CCOC1 | C4H8O
product | N-erucoyl-proline methyl ester | COC([C@H]1N(CCC1)C(CCCCCCCCCCC\C=C/CCCCCCCC)=O)=O | C28H51NO3
